US07241798B2
To a solution of racemic 1-isocyanato-2-phenyl-3-(toluene-4-sulfonyl)-3-aza-bicyclo[3.1.0]hexane Intermediate 5) in 1,4-dioxane (150 mL) was added 12% HCl aqueous (75 mL) dropwise and the reaction was allowed to stir for 16 hours at room temperature. The organic solvent was removed at reduced pressure and the flask containing the reaction residue was placed in a 0° C. bath. Methylene chloride and 2N NaOH were added until the pH of the aqueous layer was from about 9 to about 11. The layers were separated and the organic layer was washed with brine, dried over sodium sulfate, filtered, and the filtrate was concentrated to a crude weight of 3.9 g. This was adsorbed onto silica and flash chromatographed on silica with a gradient of 40% EtOAc/Hexanes to EtOAc as eluant. 2-Phenyl-3-(toluene-4-sulfonyl)-3-aza-bicyclo[3.1.0]hex-1-ylamine was obtained (2.0 g, 59% yield). The material was dissolved in hot chloroform and crystallized by adding a small amount of ether to the cooling solution.

reactant | racemic 1-isocyanato-2-phenyl-3-(toluene-4-sulfonyl)-3-aza-bicyclo[3.1.0]hexane | N(=C=O)C12C(N(CC2C1)S(=O)(=O)C1=CC=C(C=C1)C)C1=CC=CC=C1 | C19H18N2O3S
reactant | HCl | 75 mL | Cl | ClH
solvent | 1,4-dioxane | 150 mL | O1CCOCC1 | C4H8O2
product | 2-Phenyl-3-(toluene-4-sulfonyl)-3-aza-bicyclo[3.1.0]hex-1-ylamine | 59% yield | C1(=CC=CC=C1)C1C2(CC2CN1S(=O)(=O)C1=CC=C(C=C1)C)N | C18H20N2O2S
